* 8 resistor pack
*
*
.subckt respack_8 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 PARAMS: Value=1k
*
R1 1 16 {Value}
R2 2 15 {Value}
R3 3 14 {Value}
R4 4 13 {Value}
R5 5 12 {Value}
R6 6 11 {Value}
R7 7 10 {Value}
R8 8 9  {Value}
*
.ends respack_8